US06890947B2
In analogy to the procedure described in example 44, rac-3-(1H-indol-5-yl)-2-phenoxy-propionic acid methyl ester (preparation 7) was reacted with 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole to give rac-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-phenoxy-propionic acid as off-white solid.

reactant | rac-3-(1H-indol-5-yl)-2-phenoxy-propionic acid methyl ester | COC(C(CC=1C=C2C=CNC2=CC1)OC1=CC=CC=C1)=O | C18H17NO3
reactant | 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)Cl | C11H9Cl2NO
product | rac-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-phenoxy-propionic acid | ClC1=C(C=CC=C1)C=1OC(=C(N1)CN1C=CC2=CC(=CC=C12)CC(C(=O)O)OC1=CC=CC=C1)C | C28H23ClN2O4
